US03969402
2-(2-fluoro-4-biphenylyl)propionic acid (1 g.) ethylene glycol (10 ml.) and potassium hydroxide (0.8 g.) were refluxed under nitrogen for 24 hours. The mixture was diluted with water, washed with ether, acidified with hydrochloric acid and extracted with ether. The ether extract was washed with water, dried and evaporated to dryness. The product was subjected to thin layer chromatography to give 2-(2-hydroxy-4-biphenylyl)propionic acid, which was recrystallized from light petroleum (b.p. 80° - 100°C.) to give the purified acid having a m.p. of 112° - 119°C.

reactant | 2-(2-fluoro-4-biphenylyl)propionic acid | 1 g | FC1=C(C=CC(=C1)C(C(=O)O)C)C1=CC=CC=C1 | C15H13FO2
reactant | ethylene glycol | 10 ml | C(CO)O | C2H6O2
reactant | potassium hydroxide | 0.8 g | [OH-].[K+]
solvent | water | O | H2O
product | 2-(2-hydroxy-4-biphenylyl)propionic acid | OC1=C(C=CC(=C1)C(C(=O)O)C)C1=CC=CC=C1 | C15H14O3
